US05200422
1,3-dihydro-1-(5-chloro-2-hydroxyphenyl)-3-amino-5-trifluoromethyl-2H-benzimidazol-2-one
To a solution of 1,3-dihydro-1-(5-chloro-2-hydroxyphenyl)-5-trifluoromethyl-2H-benzimidazol-2-one (0.2 g, 0.6 mmol) in absolute N,N-dimethylformamide (5 ml) was at room temperature added potassium hydroxide (2 pellets) and hydroxylamine-o-sulfonic acid (0.16 g, 1.3 mmol) The reaction was stirred over night, water was added (20 ml) and the mixture was acidified with 4 M hydrochloric acid. The crude crystalline product was collected by filtration and subjected to column chromatography using methylene chloride:methanol (19 1) as eluent. The fractions containing the product were concentrated in vacuo yielding the title compound as white crystals, M.p. 228°-230° C.

reactant | 1,3-dihydro-1-(5-chloro-2-hydroxyphenyl)-5-trifluoromethyl-2H-benzimidazol-2-one | 0.6 mmol, 0.2 g | ClC=1C=CC(=C(C1)N1C(NC2=C1C=CC(=C2)C(F)(F)F)=O)O | C14H8ClF3N2O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydroxylamine-o-sulfonic acid | 1.3 mmol, 0.16 g | NOS(=O)(=O)O | H3NO4S
reactant | hydrochloric acid | 4 M | Cl | ClH
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1,3-dihydro-1-(5-chloro-2-hydroxyphenyl)-3-amino-5-trifluoromethyl-2H-benzimidazol-2-one | ClC=1C=CC(=C(C1)N1C(N(C2=C1C=CC(=C2)C(F)(F)F)N)=O)O | C14H9ClF3N3O2
